US08604069B2
(A-82-4) 3-Isobutyl-1-cyclobutenecarboxylic acid
Ethyl 3-isobutyl-2-piperidin-1-ylcyclobutanecarboxylate (994 g) and methyl p-toluenesulfonate (337 mL) were mixed. The mixture was stirred at 110° C. for 2 hr and water (1100 mL) was added to the mixture. The resulting mixture was washed with tert-butyl methyl ether/hexane=1/1 (600 mL) and hexane (600 mL). To the aqueous layer was added potassium hydroxide (503 g) at ice temperature. The resulting mixture was stirred at 95° C. for 4 hr. The reaction mixture was washed with diethyl ether (500 mL) and diethyl ether/hexane=1/1 (500 mL). To the aqueous layer was added concentrated hydrochloric acid (672 mL) at ice temperature. The mixture was extracted with ethyl acetate (1 L×2). The combined organic layer was washed with water (500 mL×2) and brine (500 mL), then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo to give the title compound (240 g) as a crude product.

reactant | Ethyl 3-isobutyl-2-piperidin-1-ylcyclobutanecarboxylate | 994 g | C(C(C)C)C1C(C(C1)C(=O)OCC)N1CCCCC1 | C16H29NO2
reactant | methyl p-toluenesulfonate | 337 mL | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | water | 1100 mL | O | H2O
product | 3-Isobutyl-1-cyclobutenecarboxylic acid | 240 g | C(C(C)C)C1C=C(C1)C(=O)O | C9H14O2
